US06417192B1
Ethyl 3-(2-methoxypyrimidin-5-yl)acrylate
A mixture of 2-methoxy-5-bromopyrimidine (75.43 g, 0.399 mol), ethyl acrylate (47.5 ml, 0.439 mol), palladium (II) acetate (1.07 g, 0.0048 mol), tri-o-tolylphosphine (2.92 g, 0.0096 mol) and triethylamine (84 ml) were heated at 135° C. with stirring under argon for 12 h. After allowing to cool the solid mass was dissolved in water and ethyl acetate, filtered, and the aqueous phase separated and further extracted with ethyl acetate. The combined extracts were washed with saturated aqueous ammonium chloride, dried (MgSO4) and evaporated. The solid thus obtained was triturated with ether/light petrol (1:3, 350 ml), filtered, washed and dried, yield 52.41 g (63%). 1H-NMR (CDCl3) δ 1.33 (3H, t), 4.06 (3H, s), 4.28 (2H, q), 6.45 (1H, d), 7.58 (1H, d), 8.67 (2H, s); MS (APCI+) found (M+H)=209; C10H12N2O3 requires 208.

reactant | 2-methoxy-5-bromopyrimidine | 0.399 mol, 75.43 g | COC1=NC=C(C=N1)Br | C5H5BrN2O
reactant | ethyl acrylate | 0.439 mol, 47.5 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tri-o-tolylphosphine | 0.0096 mol, 2.92 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 84 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
catalyst | palladium (II) acetate | 0.0048 mol, 1.07 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 3-(2-methoxypyrimidin-5-yl)acrylate | COC1=NC=C(C=N1)C=CC(=O)OCC | C10H12N2O3
